US09427475B2
Step B: (S)-2-amino-5-((2-((α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl)oxy)ethyl)amino)-5-oxopentanoic acid
A mixture of (S)-benzyl 2-{[(benzyloxy)carbonyl]amino}-5-[(2-{[α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl]oxy}ethyl)amino]-5-oxopentanoate (1.0 g, 1.11 mmol) and Pd/C (118 mg, 0.111 mmol) in water (10 mL) was allowed to stir under a balloon of H2 at room temperature for 16 hours. The catalyst was filtered off and washed with H2O (3×10 mL). The filtrate was concentrated to give the title compound. UPLC Method B: calculated for C25H44N2O19 676.25, observed m/e: 677.21 [M+1]; Rt=0.86 min.

reactant | (S)-benzyl 2-{[(benzyloxy)carbonyl]amino}-5-[(2-{[α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl]oxy}ethyl)amino]-5-oxopentanoate | 1.11 mmol, 1.0 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OCC1=CC=CC=C1)CCC(=O)NCCO[C@@H]1[C@@H](O)[C@@H](O[C@@H]2[C@@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)[C@H](O)[C@H](O1)CO[C@@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C40H56N2O21
solvent | water | 10 mL | O | H2O
catalyst | Pd/C | 0.111 mmol, 118 mg | [Pd] | Pd
product | (S)-2-amino-5-((2-((α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl)oxy)ethyl)amino)-5-oxopentanoic acid | N[C@H](C(=O)O)CCC(=O)NCCO[C@@H]1[C@@H](O)[C@@H](O[C@@H]2[C@@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)[C@H](O)[C@H](O1)CO[C@@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C25H44N2O19
